US04789680
In a manner analogous to that described in Example 2, by reacting 2,3-dichlorobenzyl azide with cyanoacetamide there is obtained 5-amino-1-(2,3-dichlorobenzyl)-1H-1,2,3-triazole-4-carboxamide having a melting point of 224°-226° (from ethanol). The starting material can be produced from 2,3-dichlorobenzyl alcohol as starting material by halogenation, for example with phosphorus tribromide, and reaction with sodium azide.

reactant | 2,3-dichlorobenzyl azide | ClC1=C(CN=[N+]=[N-])C=CC=C1Cl | C7H5Cl2N3
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-(2,3-dichlorobenzyl)-1H-1,2,3-triazole-4-carboxamide | NC1=C(N=NN1CC1=C(C(=CC=C1)Cl)Cl)C(=O)N | C10H9Cl2N5O
